US05003089
A mixture of 590 g (5 moles) of 2-ethyl-2-methyl1,3-propanediol, 479 g (5.5 moles) of 85% strength methoxyacetaldehyde and 500 ml of chloroform was heated with 10 g of pyridinium p-toluenesulfonate under a water separator until water no longer separated off. The remaining solution was deionized using a mixed-bed ion exchanger, the solvent was removed under reduced pressure and the residue was distilled. 774 g (89% yield) of 2-methoxymethyl-5-ethyl-5-methyl-1,3-dioxane of boiling point 58° C./1 mbar were obtained.

reactant | 2-ethyl-2-methyl1,3-propanediol | 5 moles, 590 g | C(C)C(CO)(CO)C | C6H14O2
reactant | methoxyacetaldehyde | COCC=O | C3H6O2
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
reactant | pyridinium p-toluenesulfonate | 10 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | water | O | H2O
product | 2-methoxymethyl-5-ethyl-5-methyl-1,3-dioxane | 774 g, 89% yield | COCC1OCC(CO1)(C)CC | C9H18O3
